US08242260B2
Step 1. Preparation of 3-bromo-5-chloro-2-methylaniline
This material was prepared from 1-bromo-5-chloro-2-methyl-3-nitrobenzene following the procedure used for SM-9, step 3 (96%): LCMS(m/z): 219.9 (MH+); tR=0.99 minute.

reactant | 1-bromo-5-chloro-2-methyl-3-nitrobenzene | BrC1=C(C(=CC(=C1)Cl)[N+](=O)[O-])C | C7H5BrClNO2
reactant | 2-chloro-3-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)aniline | ClC1=C(N)C=CC=C1B1OC(C(O1)(C)C)(C)C | C12H17BClNO2
product | 3-bromo-5-chloro-2-methylaniline | BrC=1C(=C(N)C=C(C1)Cl)C | C7H7BrClN
